US07919498B2
1,3,5-Trichlorotriazine (94 mg, 510 μmol) was added to dimethylformamide (0.04 mL, 510 μmol) at 25° C. After the formation of a white solid (10 min), DCM (3 mL) was added, followed by 1-(8-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethanol (140.0 mg, 464 μmol), made from procedure K. After the addition, the mixture was stirred at room temperature for 4 h. Water (10 mL) was added, and then diluted with DCM (10 mL), the organic phase was washed with 15 mL of a saturated solution of NaHCO3, followed by water and brine. The organic layers were dried and concentrated. Purification of the residue by flash chromatography over silica gel, using 10% hexane in EtOAc, gave 8-chloro-3-(1-chloroethyl)-2-(3-fluorophenyl)quinoline, Mass Spectrum (ESI) m/e=320.0 (M+1).

reactant | 1,3,5-Trichlorotriazine | 510 μmol, 94 mg | ClN1NN(CC(=C1)Cl)Cl | C3H4Cl3N3
reactant | dimethylformamide | 510 μmol, 0.04 mL | CN(C=O)C | C3H7NO
reactant | 1-(8-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethanol | 464 μmol, 140.0 mg | ClC=1C=CC=C2C=C(C(=NC12)C1=CC(=CC=C1)F)C(C)O | C17H13ClFNO
reactant | Water | 10 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 8-chloro-3-(1-chloroethyl)-2-(3-fluorophenyl)quinoline | ClC=1C=CC=C2C=C(C(=NC12)C1=CC(=CC=C1)F)C(C)Cl | C17H12Cl2FN
